US04623734
A glass flask having an inner volume of 3 liters was fitted with a thermometer, a stirrer, and a water separator. In this reactor, 240 g of a solution containing 120 g of maleic anhydride in xylene was placed. Then, a solution containing 220 g of dodecylamine in 1880 g of xylene was added gradually and piecemeal over a period of 120 minutes at 40° C. to the reactor. After the addition was completed, the mixture in the reactor and 65.4 g of orthophosphoric acid (purity 89% by weight) added thereto were heated at 215° C. for 1 hour under 4.4 kg/cm2G. to effect reaction. The resultant reaction mixture was cooled to 30° C., washed with 400 ml of water, and separated into a water layer and a xylene layer. The xylene layer was separated by filtration to effect removal of insolubles. The xylene layer was distilled to expel xylene. Consequently, there was obtained 258 g of slightly impure N-dodecyl maleimide. This product was found to have purity of 85.3% by weight, indicating the yield to be 69.9 mol% based on dodecylamine.

reactant | water | O | H2O
reactant | maleic anhydride | 120 g | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | dodecylamine | 220 g | C(CCCCCCCCCCC)N | C12H27N
reactant | orthophosphoric acid | 65.4 g | P(O)(O)(O)=O | H3O4P
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
solvent | xylene | 1880 g | C=1(C(=CC=CC1)C)C | C8H10
product | N-dodecyl maleimide | C(CCCCCCCCCCC)N1C(C=CC1=O)=O | C16H27NO2
